US08039450B2
6-[3-Formyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-2-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-nicotinonitrile (4)
To a degassed solution of 6-(4-bromo-3-formyl-phenoxy)-2-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-nicotinonitrile (2.7 g, 6.03 mmol) in 1,4-dioxane (25 mL) was added bis(pinacolato)diboron (1.76 g, 6.94 mmol), potassium acetate (1.77 g, 18.0 mmol), and [1,1′-bis(diphenylphosphino)ferrocene]palladium(II)chloride (0.22 g, 0.30 mmol). After purging with N2 again, the suspension was heated at 80° C. for 3 h. The mixture was cooled to room temperature and passed through Celite® and diluted with EtOAc (150 mL), organic layer was washed with water (20 mL) and brine (20 mL) solution, dried over Na2SO4, filtered, and concentrated. Purification was accomplished by flash chromatography on silica gel using 5-25% EtOAc/hexanes gradient elution yielding the title compound (2.10 g, 72%) as white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 10.37 (s, 1H), 8.28 (d, J=8.6 Hz, 1H), 7.82 (d, J=8.2 Hz, 1H), 7.71 (s, 1H), 7.57 (d, J=8.2 Hz, 1H), 6.81 (d, J=8.2 Hz, 1H), 4.51 (s, 1H), 4.29-4.10 (m, 2H), 3.85-3.60 (m, 2H), 3.60-3.50 (m, 1H), 3.46-3.36 (m, 1H), 1.75-1.48 (m, 2H), 1.50-1.33 (m, 4H), 1.33 (s, 12H).

reactant | 6-(4-bromo-3-formyl-phenoxy)-2-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-nicotinonitrile | 6.03 mmol, 2.7 g | BrC1=C(C=C(OC2=NC(=C(C#N)C=C2)OCCOC2OCCCC2)C=C1)C=O | C20H19BrN2O5
reactant | bis(pinacolato)diboron | 6.94 mmol, 1.76 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 18.0 mmol, 1.77 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]palladium(II)chloride | 0.30 mmol, 0.22 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 6-[3-Formyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-2-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-nicotinonitrile | 2.10 g, 72% | C(=O)C=1C=C(OC2=NC(=C(C#N)C=C2)OCCOC2OCCCC2)C=CC1B1OC(C(O1)(C)C)(C)C | C26H31BN2O7
